US05003079
53 g (0.54 mol) of phosgene are passed into 61 g (0.5 mol) of 4-methyl-1,2-diaminobenzene in 450 ml of water and the pH is simultaneously kept constant at 7.2 with 86 g (1.08 mol) of 50% strength aqueous sodium hydroxide solution. After cooling, 72 g of precipitated 5-methyl-benzimidazol-2-one of melting point 290° C. are obtained, which corresponds to a yield of 97% of theory.

reactant | phosgene | 0.54 mol, 53 g | C(=O)(Cl)Cl | CCl2O
reactant | 4-methyl-1,2-diaminobenzene | 0.5 mol, 61 g | CC1=CC(=C(C=C1)N)N | C7H10N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 450 ml | O | H2O
product | 5-methyl-benzimidazol-2-one | 72 g, yield of 97% | CC1=CC=2C(=NC(N2)=O)C=C1 | C8H6N2O
